US09024018B2
4-oxo-N-(2-oxo-2-phenylethyl)-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboximidamide hydroiodide
Using the general procedure, the title compound was synthesized from methyl 4-oxo-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbimidothioate hydroiodide and aminoacetophenone hydrochloride, using a reaction time of 5 hours and 30 minutes for the amidine formation. Yield 29%. δH (DMSO-d6): 9.74 (2H, m), 9.54 (1H, bs), 9.25 (1H, s), 8.07-8.05 (2H, m), 7.78-7.73 (1H, m), 7.65-7.61 (2H, m), 5.27-5.24 (4H, m), 3.62 (1H, t, J=2.5).

reactant | methyl 4-oxo-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbimidothioate hydroiodide | I.O=C1N2C(N=NN1CC#C)=C(N=C2)C(=N)SC
reactant | aminoacetophenone hydrochloride | Cl.NCC(=O)C1=CC=CC=C1
product | 4-oxo-N-(2-oxo-2-phenylethyl)-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboximidamide hydroiodide | Yield 29% | I.O=C1N2C(N=NN1CC#C)=C(N=C2)C(NCC(C2=CC=CC=C2)=O)=N | InChI=1S/C16H13N7O2.HI/c1-2-8-23-16(25)22-10-19-13(15(22)20-21-23)14(17)18-9-12(24)11-6-4-3-5-7-11;/h1,3-7,10H,8-9H2,(H2,17,18);1H
